US08754068B2
Preparation of (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(3-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid
A mixture of 3-((1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-3a-(methoxycarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (140 mg, 0.244 mmol) and lithium bromide (425 mg, 4.89 mmol) in DMF (2 mL) was heated to 100° C. for 2 days. TLC indicated starting material was consumed and desired product was observed. The reaction mixture was filtered and the clear solution was purified by HPLC to provide the desired product (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(3-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid as a white solid (25 mg, 17%). LCMS: m/e 557.48 (M−H)−, 5.67 min (method 6). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.89 (s, 3H), 0.91 (s, 3H), 0.96 (s, 3H), 0.98 (s, 3H), 1.00 (s, 3H), 1.01-1.76 (m, 17H), 1.68 (s, 3H), 1.79-1.89 (m, 2H), 2.04-2.19 (m, 2H), 2.27-2.32 (m, 1H), 2.93-3.05 (m, 1H), 4.59 (s, 1H), 4.73 (d, J=2.01 Hz, 1H), 5.26 (d, J=4.77 Hz, 1H), 7.29-7.35 (m, 1H), 7.40 (t, J=7.65 Hz, 1H), 7.66 (s, 1H), 7.83 (d, J=7.53 Hz, 1H).

reactant | 3-((1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-3a-(methoxycarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.244 mmol, 140 mg | COC(=O)[C@]12[C@@H]([C@H]3CCC4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C=1C=C(C(=O)O)C=CC1)C)[C@@H](CC2)C(=C)C | C38H52O4
reactant | lithium bromide | 4.89 mmol, 425 mg | [Br-].[Li+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-9-(3-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 25 mg, 17% | C(=O)(O)C=1C=C(C=CC1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CCC3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O)C)C)(C)C | C37H50O4
